US05480873
A suspension of methyl 4,5-dimethoxy-6-fluoro-9,10-dihydro-9,10-dioxoanthracene 2-carboxylate (306 mg) in 47% aqueous hydrobromic acid was stirred at reflux for 18 hours. The yellow suspension was cooled and concentrated to yield a yellow solid. This was triturated with water, filtered, washed well with water and dried to yield 9,10-dihydro-4,5-dihydroxy-9,10-dioxo-6-fluoro-anthracene 2-carboxylic acid as a deep yellow solid, m.p. >275° C.

reactant | methyl 4,5-dimethoxy-6-fluoro-9,10-dihydro-9,10-dioxoanthracene 2-carboxylate | 306 mg | COC1=CC(=CC=2C(C3=CC=C(C(=C3C(C12)=O)OC)F)=O)C(=O)OC | C18H13FO6
solvent | hydrobromic acid | Br | BrH
product | 9,10-dihydro-4,5-dihydroxy-9,10-dioxo-6-fluoro-anthracene 2-carboxylic acid | OC1=CC(=CC=2C(C3=CC=C(C(=C3C(C12)=O)O)F)=O)C(=O)O | C15H7FO6
